US09062059B2
5-Methyl-2-((trimethylsilyl)ethynyl)pyridine (12-1)
The mixture of 2-bromo-5-methylpyridine (5.0 g, 29.1 mmol), ethynyltrimethylsilane (3.42 g, 34.88 mmol), Copper iodide (0.61 g, 332 mg) and Pd(PPh3)2Cl2 (0.61 g, 0.871 mmol) was dissolved in triethylamine (6.4 mL, 261 mmol). The solution was purged with N2 3 times. The solution was stirred for overnight under 25° C. The solvent was removed under reduced pressure. The residue was separated by silca gel chromatography with the eluent of PE/EA=20/1. The product was obtained as a yellow solid (4.15 g, 76%). 1H NMR (400 MHz, CDCl3) δ 8.41 (s, 1H), 7.46 (dd, J=7.9, 1.5 Hz, 1H), 7.36 (d, J=7.9 Hz, 1H), 2.35 (s, 3H), 0.28 (s, 9H); LRMS (ES) calculated M+H for C11H16NSi: 190.3. Found: 190.2.

reactant | 2-bromo-5-methylpyridine | 29.1 mmol, 5.0 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | ethynyltrimethylsilane | 34.88 mmol, 3.42 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 261 mmol, 6.4 mL | C(C)N(CC)CC | C6H15N
catalyst | Copper iodide | 0.61 g | [Cu](I)I
catalyst | Pd(PPh3)2Cl2 | 0.871 mmol, 0.61 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Methyl-2-((trimethylsilyl)ethynyl)pyridine | 4.15 g, 76% | CC=1C=CC(=NC1)C#C[Si](C)(C)C | C11H15NSi
